US06110933
To a solution of (3S)-3-[(2S)-5-benzyloxycarbonyl-2-{(3S)-3-hydroxy-15-methylhexadecanoylamino}pentanoyl]oxy-15-methylhexadecanamide (80 mg) in a mixture of 1,4-dioxane (10 ml) and methanol (10 ml) were added 10% palladium on active carbon (50 mg) and water (1 ml). The mixture was stirred at room temperature under hydrogen atmosphere for 1 hour. The catalyst was filtered off and the solvent was removed under reduced pressure to give (3S)-3-[(2S)-5-carboxy-2-{(3S)-3-hydroxy-15-methylhexadecanoylamino}-pentanoyl]oxy-15-methylhexadecanamide as white powder (56 mg).

reactant | (3S)-3-[(2S)-5-benzyloxycarbonyl-2-{(3S)-3-hydroxy-15-methylhexadecanoylamino}pentanoyl]oxy-15-methylhexadecanamide | 80 mg | C(C1=CC=CC=C1)OC(=O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCC(C)C)NC(C[C@H](CCCCCCCCCCCC(C)C)O)=O | C47H82N2O7
reactant | water | 1 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (3S)-3-[(2S)-5-carboxy-2-{(3S)-3-hydroxy-15-methylhexadecanoylamino}-pentanoyl]oxy-15-methylhexadecanamide | 56 mg | C(=O)(O)CCC[C@@H](C(=O)O[C@H](CC(=O)N)CCCCCCCCCCCC(C)C)NC(C[C@H](CCCCCCCCCCCC(C)C)O)=O | C40H76N2O7
